US05576322
4-(α-Carboxy-3,4-methylenedioxybenzyl)amino-6-chloroquinazoline
10 ml of ethanol, 5 ml of water and 20 mg of sodium hydroxide were added to 100 mg of 4-(α-ethoxycarbonyl-3,4-methylenedioxybenzyl)amino-6-chloroquinazoline. The obtained mixture was refluxed for 10 minutes and concentrated under a reduced pressure, followed by the addition of 20 ml of water. The obtained mixture was neutralized with 1N hydrochloric acid. The crystal thus precipitated was recovered by filtration. Thus, 45 mg of the title compound was obtained.

reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 20 mg | [OH-].[Na+]
reactant | 4-(α-ethoxycarbonyl-3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 100 mg | C(C)OC(=O)C(C1=CC2=C(C=C1)OCO2)NC2=NC=NC1=CC=C(C=C21)Cl | C19H16ClN3O4
solvent | water | 5 ml | O | H2O
product | 4-(α-Carboxy-3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 45 mg, yield (%); 49 | C(=O)(O)C(C1=CC2=C(C=C1)OCO2)NC2=NC=NC1=CC=C(C=C21)Cl | C17H12ClN3O4
